US07414076B2
Preparation of 3-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-1-propanesulfonic acid (Compound H)
To a solution of 4-(4-chlorophenyl)-4-piperidinol (2.5 g, 11.8 mmol) in acetone (25 mL) was added 1,3-propane sultone (1.56 g, 13.0 mmol). The mixture was stirred at reflux for 2 h. The reaction mixture was cooled to room temperature. The solid was collected by filtration, washed with acetone (2×20 mL) and dried in vacuo. This allowed the isolation of compound H, 2.83 g (72%).

reactant | 4-(4-chlorophenyl)-4-piperidinol | 11.8 mmol, 2.5 g | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | 1,3-propane sultone | 13.0 mmol, 1.56 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 3-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-1-propanesulfonic acid | ClC1=CC=C(C=C1)C1(CCN(CC1)CCCS(=O)(=O)O)O | C14H20ClNO4S
